**********************************************************
* THIS FILE IS GENERATED BY AIVALANCHE
* FILE ID: 3
* SIMULATION TYPE: ac_point_dc_sweep
**********************************************************

* Define the temperature
.TEMP 25.0

* Include the dut file
.INCLUDE /home/gazi/Desktop/Work/custom_packages/calibration/src/templates/mosfet_level_1/nmos/dut.cir

** Start testbenches

********************* dut testbench 20_0 *********************
v_gs_ac_20_0 g_20_0 g_ac_20_0 DC 0 AC 1
e_gs_20_0 g_ac_20_0 0 v_sweep 0 1
v_ds_20_0 d_20_0 0 0.0
v_s_20_0 s_20_0 0 0
v_bs_20_0 b_20_0 0 0.0
x_20_0 d_20_0 g_20_0 s_20_0 b_20_0 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 20_1 *********************
v_gs_ac_20_1 g_20_1 g_ac_20_1 DC 0 AC 1
e_gs_20_1 g_ac_20_1 0 v_sweep 0 1
v_ds_20_1 d_20_1 0 0.0
v_s_20_1 s_20_1 0 0
v_bs_20_1 b_20_1 0 1.0
x_20_1 d_20_1 g_20_1 s_20_1 b_20_1 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

********************* dut testbench 20_2 *********************
v_gs_ac_20_2 g_20_2 g_ac_20_2 DC 0 AC 1
e_gs_20_2 g_ac_20_2 0 v_sweep 0 1
v_ds_20_2 d_20_2 0 0.0
v_s_20_2 s_20_2 0 0
v_bs_20_2 b_20_2 0 -1.0
x_20_2 d_20_2 g_20_2 s_20_2 b_20_2 dut w=5e-06 l=6e-06 m=1.0
*************************************************************

** End testbenches

* Declare the v_sweep, which will change during the simulation.
v_sweep v_sweep 0 0

********** Start of control section **********
.control

** Model parameters start
alterparam dut vto = 0.6528133129632973
alterparam dut kp = 1.0509296938396604e-07
alterparam dut gamma = 0.1709614219110378
alterparam dut phi = 0.41029314207031514
alterparam dut rd = 0.13897906083831235
alterparam dut rs = 1.2825335980556474
alterparam dut cbd = 2.2256027644739702e-20
alterparam dut cbs = 2.2256027644739702e-20
alterparam dut is = 3.7981577206957224e-12
alterparam dut pb = 1.4840971917374743
alterparam dut cgso = 1.932718094724201e-13
alterparam dut cgdo = 4.7886694024182e-13
alterparam dut cgbo = 5.91568468822088e-12
alterparam dut rsh = 19.739065334704655
alterparam dut cj = 1.5986386488101735e-06
alterparam dut mj = 0.6483681844669367
alterparam dut cjsw = 1.8202599022008183e-10
alterparam dut mjsw = 0.16945999751740515
alterparam dut tox = 9.604031259492341e-08
alterparam dut nsub = 286164164023.5453
alterparam dut nss = 12622225810977.88
alterparam dut nfs = 495330.76652341784
alterparam dut tpg = 3.2041840057977633
alterparam dut xj = 1.1582291673215674e-06
alterparam dut ld = 4.9533076652341785e-15
alterparam dut uo = 223.66657787511002
alterparam dut vmax = 222.56027644739703
alterparam dut kf = 2.7958704813874247e-21
alterparam dut af = 0.9440972706293765
alterparam dut fc = 1.5916096877325492
reset
** Model parameters end

** Declare the vectors to save.
save i(v_ds_20_2) i(v_ds_20_0) i(v_ds_20_1)

** Write the header of the results file.
echo "vgs,cgd_20_0,cgd_20_2,cgd_20_1" > /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:45:05/simulation_files/ac_point_dc_sweep_3.csv

** Start the simulation loop.
compose values_list start=-2.0 stop=2.0 step=0.05
foreach val $&values_list
    alter v_sweep $val
    ac lin 1 10000.0 10000.0

    let cgd_20_0 = abs(imag(i(v_ds_20_0)))/2*pi*10000.0
    let cgd_20_1 = abs(imag(i(v_ds_20_1)))/2*pi*10000.0
    let cgd_20_2 = abs(imag(i(v_ds_20_2)))/2*pi*10000.0

    echo "$val,$&cgd_20_0,$&cgd_20_2,$&cgd_20_1" >> /home/gazi/Desktop/Work/custom_packages/calibration/test/mosfet_level_1/results/calibration_2023-06-25_23:45:05/simulation_files/ac_point_dc_sweep_3.csv
end

.endc
********** End of control section **********

.end